US07919506B2
N-(2-(1-cyclohexyl-1-methoxyethyl)-4-methyl-5-(trifluoromethyl)benzyl)-N-(3,5-bis (trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine
To a solution of 1-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-5-methyl-4-(trifluoromethyl)phenyl)-1-cyclohexylethanol (18 mg, 0.028 mmol) in THF (3 mL) was added sodium hydride (60% dispersion in mineral oil, 8 mg, 0.202 mmol) at room temperature. After stirring for 5 minutes methyl iodide (12.2 mg, 0.086 mmol) was added and the solution was stirred at room temperature for 18 hours. Water (5 mL) was added and the mixture was extracted with ethyl acetate (3×20 mL). The organics were combined, dried with anhydrous sodium sulfate, filtered and concentrated to give an oil (17 mg). This material was purified by flash chromatography on a 4 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 10% ethyl acetate in heptane) to yield the title compound (11 mg, 59%). 1H NMR (400 MHz, CDCl3) δ7.75 (s, 1H) 7.70 (s, 2H) 7.39 (s, 1H) 7.01 (s, 1H) 5.19 (d, J=17.42 Hz, 1H) 5.0 (d, J=17.42 Hz, 1H) 4.74 (q, J=16.72 Hz, J=16.18 Hz, 2H) 4.17 (s, 3H) 3.0 (s, 3H) 2.42 (s, 3H) 1.99 (d, J=12.40 Hz, 1H) 1.72 (m, 2H) 1.58 (s, 3H) 0.99 (m, 8H). MS calc. 637.5, found 638.5 (M+H)

reactant | 1-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-5-methyl-4-(trifluoromethyl)phenyl)-1-cyclohexylethanol | 0.028 mmol, 18 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=C(C(=C2)C(F)(F)F)C)C(C)(O)C2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C28H30F9N5O
reactant | sodium hydride | 0.202 mmol, 8 mg | [H-].[Na+]
reactant | methyl iodide | 0.086 mmol, 12.2 mg | CI | CH3I
reactant | Water | 5 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(2-(1-cyclohexyl-1-methoxyethyl)-4-methyl-5-(trifluoromethyl)benzyl)-N-(3,5-bis (trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 17 mg | C1(CCCCC1)C(C)(OC)C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C(=C1)C)C(F)(F)F | C29H32F9N5O
